US07943619B2
N-[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-isobutyramide
As described for example 18, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine (200 mg, 0.7 mmol) was converted, using isobutyryl chloride instead of methoxyacetyl chloride, to the title compound (180 mg, 72%) which was obtained as a white solid. MS: m/e=353.2 [M+H]−.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine | 0.7 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)N | C15H14N4O2
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | N-[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-isobutyramide | 180 mg, 72% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)NC(C(C)C)=O | C19H20N4O3
